US06133279
Under a nitrogen atmosphere, 1.0 g of 1-[(5-acetoxy-4,6-di-t-butyl-2-methyl-2,3-dihydrobenzofuran-2-yl)methyl]thiourea was dissolved in 30 ml of toluene. To the solution was added 10.2 ml of diisobutyl aluminum hydride (1.0 M in toluene) and the mixture was stirred at room temperature for 1 hour. After reaction, the mixture was combined with a saturated aqueous ammonium chloride solution and 10% hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated. The concentrate was purified by silica gel column chromatography eluting with n-hexane containing 33% ethyl acetate to give 0.89 g of 1-[(4,6-di-t-butyl-5-hydroxy-2-methyl-2,3-dihydrobenzofuran-2-yl)methyl]thiourea as a white crystal (yield 100%).

reactant | 1-[(5-acetoxy-4,6-di-t-butyl-2-methyl-2,3-dihydrobenzofuran-2-yl)methyl]thiourea | 1.0 g | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)CNC(=S)N)C1C(C)(C)C)C(C)(C)C | C21H32N2O3S
reactant | diisobutyl aluminum hydride | 1.0 M, 10.2 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[(4,6-di-t-butyl-5-hydroxy-2-methyl-2,3-dihydrobenzofuran-2-yl)methyl]thiourea | 0.89 g, yield 100% | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)(C)CNC(=S)N)C(C)(C)C)O | C19H30N2O2S
